US09260363B2
Synthesis of 2-(biphenyl-2-yl)-7-bromo-9,9-dimethyl-9H-fluorene
A mixture of 35.2 g (100 mmol) of 2,7-dibromo-9,9-dimethyl-9H-fluorene, 21.8 g (110 mmol) of biphenyl-2-ylboronic acid, 2.31 g (2 mmol) of Tetrakis(triphenylphosphine)Palladium, 75 ml of 2M Na2CO3, 150 ml of EtOH and 300 ml toluene was degassed and placed under nitrogen, and then heated at 100° C. for 12 h. After the reaction finish, the mixture was allowed to cool to room temperature. The organic layer was extracted with ethyl acetate and water, dried with anhydrous magnesium sulfate, the solvent was removed and the residue was purified by column chromatography on silica (hexane-dichloromethane) to give product (26.8 g, 63.0 mmol, 63%) as a white solid. 1H NMR (CDCl3, 400 MHz):chemical shift(ppm) 7.61 (d, J=7.8 Hz, 1H), 7.55˜7.53 (m, 2H), 7.49˜7.42 (m, 5H), 7.29 (d, J=8.0 Hz, 1H), 7.20˜7.14 (m, 5H), 6.98 (s, 1H), 1.21 (s, 6H)

reactant | 2,7-dibromo-9,9-dimethyl-9H-fluorene | 100 mmol, 35.2 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(C)C | C15H12Br2
reactant | biphenyl-2-ylboronic acid | 110 mmol, 21.8 g | C1(=C(C=CC=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | Na2CO3 | 2M, 75 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 150 ml | CCO | C2H6O
catalyst | Tetrakis(triphenylphosphine)Palladium | 2 mmol, 2.31 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(biphenyl-2-yl)-7-bromo-9,9-dimethyl-9H-fluorene | 63.0 mmol, 26.8 g, 63% | C1(=C(C=CC=C1)C1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(C)C)C1=CC=CC=C1 | C27H21Br
